US05103023
2-Bromo-4,5-dimethoxybenzaldehyde dimethylacetal (59 g) is dissolved in tetrahydrofuran and thereto is added 2.5M n-butyllithium (89 ml) under cooling at -70° C. The reaction mixture is kept below -50° C. for 30 minutes and thereto is added dropwise a solution of iodine (51.4 g) in tetrahydrofuran below -50° C. The mixture is kept at the same temperature for 15 minutes and thereto are added aqueous acetic acid to adjust the pH of the solution at 2. The mixture is allowed to stand at room temperature overnight, and the solvent is distilled off from the reaction mixture. The residue is dissolved in ethyl acetate. The solution is washed and dried, and the solvent is distilled off. The residue is crystallized from ethyl acetate to give 2-iodo-4,5-dimethoxybenzaldehyde (43 g). M.p. 139°-141° C.

reactant | 2-Bromo-4,5-dimethoxybenzaldehyde dimethylacetal | 59 g | COC(C1=C(C=C(C(=C1)OC)OC)Br)OC | C11H15BrO4
reactant | n-butyllithium | 2.5M, 89 ml | C(CCC)[Li]
reactant | iodine | 51.4 g | II | I2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-iodo-4,5-dimethoxybenzaldehyde | 43 g | IC1=C(C=O)C=C(C(=C1)OC)OC | C9H9IO3
